US04754068
32.7 g (0.3 mol) of 3-aminophenol, 18.2 g (0.1 mol) of 1,3,5-trichlorobenzene, 28 g (0.2 mol) of anhydrous potassium carbonate and 150 ml of hexamethylphosphoric triamide were charged in a flask equipped with a stirrer. The mixture was maintained at 180° to 190° C. for 24 hours under stirring while passing gaseous nitrogen through it to accomplish the condensation. Then the reaction mixture was treated according to the same procedure as described in Example 1 to obtain 34.4 g of 1,3-bis(3-aminophenoxy)-5-chlorobenzene hydrochloride (yield: 85.8%).

reactant | 3-aminophenol | 0.3 mol, 32.7 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 1,3,5-trichlorobenzene | 0.1 mol, 18.2 g | ClC1=CC(=CC(=C1)Cl)Cl | C6H3Cl3
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoric triamide | 150 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1,3-bis(3-aminophenoxy)-5-chlorobenzene hydrochloride | 34.4 g, yield: 85.8% | Cl.NC=1C=C(OC2=CC(=CC(=C2)Cl)OC2=CC(=CC=C2)N)C=CC1 | InChI=1S/C18H15ClN2O2.ClH/c19-12-7-17(22-15-5-1-3-13(20)9-15)11-18(8-12)23-16-6-2-4-14(21)10-16;/h1-11H,20-21H2;1H
